US07626036B2
5-Azidomethyl-3-(4-chloro-3-trifluoromethyl-phenyl)-5-methyl-imidazolidine-2,4-dione
Methanesulfonic acid 1-(4-chloro-3-trifluoromethyl-phenyl)-4-methyl-2,5-dioxo-imidazolidin-4-ylmethyl ester (1.0 g, 2.5 mmoL) from Example 11, NaN3 (1.6 g, 25 mmoL) and KI (40 mg, 0.25 mmoL) in DMF (8 mL) was heated at 100° C. for 10 hrs. The crude product was partitioned between ether and water. The organic layer was washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated, then purified by silica gel column chromatography using heptane and ethyl acetate as eluent to afford the title compound as a colorless oil (566 mg, yield 65%).

reactant | Methanesulfonic acid 1-(4-chloro-3-trifluoromethyl-phenyl)-4-methyl-2,5-dioxo-imidazolidin-4-ylmethyl ester | 1.0 g | ClC1=C(C=C(C=C1)N1C(NC(C1=O)(C)COS(=O)(=O)C)=O)C(F)(F)F | C13H12ClF3N2O5S
reactant | NaN3 | 1.6 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 5-Azidomethyl-3-(4-chloro-3-trifluoromethyl-phenyl)-5-methyl-imidazolidine-2,4-dione | 566 mg, yield 65% | N(=[N+]=[N-])CC1(C(N(C(N1)=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O)C | C12H9ClF3N5O2
